US05089504
3-Propanoyl-8-methoxy-4(1H)-quinolone (35.4 g, 0.15 mol) was dissolved in phosphoryl chloride (400 ml) and heated at reflux for 1 hour, then the excess phosphoryl chloride evaporated. The residue was mixed with ice, then diluted with water and extracted into dichloromethane. Drying and evaporation gave 3-propanoyl-4-chloro-8-methoxyquinoline (39.7 g) as a dark oil which was used without further purification.

reactant | 3-Propanoyl-8-methoxy-4(1H)-quinolone | 0.15 mol, 35.4 g | C(CC)(=O)C1=CNC2=C(C=CC=C2C1=O)OC | C13H13NO3
reactant | phosphoryl chloride | 400 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-propanoyl-4-chloro-8-methoxyquinoline | 39.7 g | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO2
